US07691893B2
Preparation 3: 1-(1,1-dimethylethyl) 3-methyl 4-(3,4-dichlorophenyl)-5,6-dihydro-1,3(2H)-pyridinedicarboxylate (P3)
To a mixture of 1-(1,1-dimethylethyl) 3-methyl 4-{[(trifluoromethyl)sulfonyl]oxy}-5,6-dihydro-1,3(2H)-pyridinedicarboxylate (200 mg, P2), 3,4-dichlorophenylboronic acid (108 mg) and Pd(PPh3)4 (21 mg) under nitrogen, toluene (2.5 mL), ethanol (2 mL) and Na2CO3 (aqueous 2M solution, 2 mL) were added in sequence. The mixture was stirred at 80° C. for 1 hour then the reaction mixture was allowed to reach room temperature. Saturated aqueous NH4Cl solution (15 mL) was poured into the solution and the mixture was transferred in a separator funnel. The mixture was extracted with ethyl acetate (3×20 mL), the combined organic phases were dried on anhydrous Na2SO4 and the solvent evaporated obtaining a crude product that was purified by flash-chromatography (eluting with ethyl acetate/cycloexane 1:3) to give the title compound (198 mg).

reactant | 1-(1,1-dimethylethyl) 3-methyl 4-{[(trifluoromethyl)sulfonyl]oxy}-5,6-dihydro-1,3(2H)-pyridinedicarboxylate | 200 mg | FC(S(=O)(=O)OC1=C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC)(F)F | C13H18F3NO7S
reactant | 3,4-dichlorophenylboronic acid | 108 mg | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | Na2CO3 | 2M, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NH4Cl | 15 mL | [NH4+].[Cl-]
catalyst | Pd(PPh3)4 | 21 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(1,1-dimethylethyl) 3-methyl 4-(3,4-dichlorophenyl)-5,6-dihydro-1,3(2H)-pyridinedicarboxylate | 198 mg | ClC=1C=C(C=CC1Cl)C1=C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C18H21Cl2NO4
